US08119655B2
Compound 83: 3-(3′-(ethylsulfonyl)-4-methyl-3-nitro-5-(trifluoromethyl)biphenyl-2-yl)-2-fluoro-5-methylpyridine
A mixture of 3-(6-chloro-3-methyl-2-nitro-4-(trifluoromethyl)phenyl)-2-fluoro-5-methylpyridine (6.0 g, 17.2 mmol), 3-ethylsulfonylphenylboronic acid (4.79 g, 22.4 mmol), bis(dibenzylidineacetone)Pd(0) (1.48 g, 2.6 mmol), tricyclohexylphosphine (1.45 g, 5.2 mmol), Cs2CO3 (14.0 g, 43 mmol), and dioxane (60 mL) was heated at reflux for 4.5 hr. After completion the reaction was cooled to room temperature, filtered, rinsed with dioxane, and concentrated in vacuo. The resulting oil was reconstituted in EtOAc (75 mL) washed with H2O (1×30 mL) and brine (1×30 mL), dried (MgSO4), and concentrated in vacuo. Purification by silica gel chromatography (4:1 hexanes/EtOAc) gave 6.5 g (78%) of the title compound as a tan solid. 1H NMR (400 MHz, DMSO-d6): δ 8.15 (s, 1H), 8.04 (s, 1H), 7.90-7.93 (m, 1H), 7.80-7.82 (m, 1H), 7.60-7.70 (m, 3H), 3.1-3.2 (m, 2H), 2.49 (s, 3H), 2.25 (s, 3H), 0.85 (t, 3H). MS (ES) [m+H] calc'd for C22H18F4N2O4S, 483; found 483.3.

reactant | 3-(6-chloro-3-methyl-2-nitro-4-(trifluoromethyl)phenyl)-2-fluoro-5-methylpyridine | 17.2 mmol, 6.0 g | ClC1=CC(=C(C(=C1C=1C(=NC=C(C1)C)F)[N+](=O)[O-])C)C(F)(F)F | C14H9ClF4N2O2
reactant | 3-ethylsulfonylphenylboronic acid | 22.4 mmol, 4.79 g | C(C)S(=O)(=O)C=1C=C(C=CC1)B(O)O | C8H11BO4S
reactant | tricyclohexylphosphine | 5.2 mmol, 1.45 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | Cs2CO3 | 43 mmol, 14.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 3-(3′-(ethylsulfonyl)-4-methyl-3-nitro-5-(trifluoromethyl)biphenyl-2-yl)-2-fluoro-5-methylpyridine | 6.5 g, 78% | C(C)S(=O)(=O)C=1C=C(C=CC1)C1=C(C(=C(C(=C1)C(F)(F)F)C)[N+](=O)[O-])C=1C(=NC=C(C1)C)F | C22H18F4N2O4S
